US07485640B2
Sodium methoxide (2.70 g, 50.0 mmol) was added portionwise over 10 min to a 0° C. suspension of 4,6-dichloro-5-nitropyrimidine (4.85 g, 25.0 mmol) in methanol (90 ml). On complete addition the mixture was stirred at 0° C for 2 h. The precipitate was filtered and the filtrate evaporated. The residue was suspended in isohexane and filtered. The filtrate was evaporated and the residue purified by flash column chromatography on silica, eluting with 5% ethyl acetate in isohexane. Collecting appropriate fractions gave 4-chloro-6-methoxy-5-nitropyrimidine (3.50 g, 74%) as a white solid: δH (400 MHz, CDCl3) 4.15 (3H, s), 8.65 (1H, s).

reactant | Sodium methoxide | 50.0 mmol, 2.70 g | C[O-].[Na+]
reactant | 4,6-dichloro-5-nitropyrimidine | 25.0 mmol, 4.85 g | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
solvent | methanol | 90 ml | CO | CH4O
product | 4-chloro-6-methoxy-5-nitropyrimidine | 3.50 g, 74% | ClC1=NC=NC(=C1[N+](=O)[O-])OC | C5H4ClN3O3
